US04092304
10.3 Parts N-t-butoxycarbonylglycylglycine benzyl ester is dissolved in 200 parts dioxane and treated with a 10 fold excess of 2 N hydrochloric acid in dioxane for 10 minutes. Removal of the solvent under reduced pressure affords pure glycylglycine benzyl ester hydrochloride.

reactant | N-t-butoxycarbonylglycylglycine benzyl ester | C(C1=CC=CC=C1)OC(CNC(CNC(=O)OC(C)(C)C)=O)=O | C16H22N2O5
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | glycylglycine benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC(CNC(CN)=O)=O | InChI=1S/C11H14N2O3.ClH/c12-6-10(14)13-7-11(15)16-8-9-4-2-1-3-5-9;/h1-5H,6-8,12H2,(H,13,14);1H
